US06562823B1
Step A: Preparation of 1-(Triphenylmethyl)-4-[2-(trifluoroacetamido)-1-ethyl]imidazole
To a solution of histamine dihydrochloride (20 g, 109 mmol) in 300 mL of dichloromethane at 0° C. was added triethylamine (52.8 mL, 380 mmol), followed by trifluoroacetic anhydride (15.4 mL, 109 mmol). After 30 minutes, 700 mL of dimethylformamide was added, followed by an additional portion of triethylamine (18 mL, 129 mmol) and triphenylmethyl chloride (30.3 g, 109 mmol). The reaction was warmed to room tempeature, stirred for 2 hours, then quenched by the addition of 200 mL of water. The white precipitate was filtered, washed with water, and dried in vacuo to provide the titled product.

reactant | histamine dihydrochloride | 109 mmol, 20 g | Cl.Cl.NCCC1=CNC=N1
reactant | triethylamine | 380 mmol, 52.8 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 109 mmol, 15.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 129 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 109 mmol, 30.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | 1-(Triphenylmethyl)-4-[2-(trifluoroacetamido)-1-ethyl]imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCNC(C(F)(F)F)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22F3N3O
